US07723529B2
To a solution of pentafluorophenol (1 g, 5.43 mmol) and TEA (0.91 ml, 6.52 mmol) in CHCl3 (8 ml), cooled to 0° C. and under nitrogen, a solution of 4-chlorobutyl chloroformate (0.76 ml, 5.43 mmol) in CHCl3 (1 ml) was dropped into. The mixture was allowed to warm to room temperature and stirred for 480 minutes. Then it was diluted with aqueous KHSO4 (2%), the two phases were separated and the organic phase was dried and evaporated yielding 4-chlorobutyl pentafluorophenyl carbonate (1.69 g, 98%) as a colorless oil that was used without further purification.

reactant | pentafluorophenol | 5.43 mmol, 1 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 4-chlorobutyl chloroformate | 5.43 mmol, 0.76 ml | ClC(=O)OCCCCCl | C5H8Cl2O2
solvent | CHCl3 | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | KHSO4 | OS(=O)(=O)[O-].[K+]
product | 4-chlorobutyl pentafluorophenyl carbonate | 1.69 g, 98% | C(OCCCCCl)(OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C11H8ClF5O3
